Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Altered mental status
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
HISTORY OF PRESENTING ILLNESS:  
___ male patient presenting to the ED for evaluation of 
altered mental status. 

He was found by EMS altered and unresponsive. He had pillboxes 
and needles on his person per EMS. History otherwise limited by 
altered mental status. 

In ED initial VS:  101.1 122 101/60 with RR 4
Exam:  Pt continued to be unresponsive despite narcan nebs, 
given 1mg IV narcan with resultant awakening. Pt started 
vomiting shortly thereafter, given Ativan 0.5mg x 2 for this. 
Now calm, answering questions, however states he doesn't know 
what he took. Denies using heroin or fentanyl.
Patient was given:  
___ 11:03 IV Naloxone .4 mg ___  
___ 11:05 IVF  NS  ___ Started  
___ 11:23 IV Acetaminophen IV 1000 mg ___  
___ 11:25 IV Ondansetron 4 mg ___  
___ 11:25 IV Naloxone 1 mg ___  
___ 11:35 IV LORazepam .5 mg ___  
___ 11:40 IVF  NS  ___ Started  
___ 11:55 IV LORazepam .5 mg ___  
___ 12:00 IM Haloperidol 5 mg ___  
___ 12:47 IV Naloxone .4 mg ___  
___ 13:00 IVF  NS 1 mL ___ Stopped (1h ___  
___ 13:00 IVF  NS 1 mL ___ Stopped (1h ___  
___ 13:00 IVF  NS  ___ Started  
___ 13:05 IV CefePIME  ___ Started  
___ 13:25 IV CefePIME 2 g ___ Stopped (___)  
___ 14:46 IV Gentamicin 70 mg ___  
___ 14:46 IVF  NS 1 mL ___ Stopped (1h ___  
___ 15:55 IVF  NS  ___ Started 250 mL/hr 

Labs notable for: chem panel wnl, cbc unremarkable aside from 
mild anemia (hgb 11.5), LFTs wnl, INR 1.2, UA neg.
Urine Opiates Pos 
Urine Cocaine Pos 
Urine Benzos, Barbs, Amphet, Mthdne, Oxycodone Negative 

Imaging notable for: 
-CT head: no acute process
-CXR: low lung volumes, perihilar GGOs, no lobar consolidation. 
-EKG:
-initial: NSR rate 110, sub mm q waves II, III. qtc 407/434. 
-repeat: NSR rate 65, q wave II, III. qtc 444/454. ivcd.
Consults:  toxicology
VS prior to transfer: 
97.8 75 95/65 10 100% Nasal Cannula 

On arrival to the MICU, he is sleeping but easily awakens. He 
doesn't remember what he used prior to coming in or how long he 
had been down. HE is unable to provide further history. He 
denies any pain or any other complaints. He is hungry. 

Unable to obtain collateral overnight - attempted to reach 
girlfriend ___ but had to leave a VM.

 
Past Medical History:
Hep C 
polysubstance abuse
 
Social History:
___
Family History:
unable to provide
 
Physical Exam:
ADMISSION PHYSICAL:
Afebrile HR 74 BP 111/56 O2 sat 93-95% on RA
GEN: Sleeping but wakes easily to voice, a/o to person place and 
DOB, able to provide girlfriend's phone number, slightly slurred 
speech. 
HEENT: NCAT scab on forehead, Moist mucous membranes. PERRL, 
4mm. No scleral icterus.  
LUNGS: CTAB, Non-labored
CV: RRR, No m/r/g. Distal pulses intact. Skin well perfused.  
ABDOMEN: Soft, NT, ND  
EXT: No edema, cyanosis or clubbing.  
SKIN: Normal color. Track marks in bilateral antecubs. multiple 
grouped erythematous papules on back suggestive of bug bites
NEURO: a/o x2. Moving all extremities. Normal tone.  

DISCHARGE PHYSICAL:

 
Pertinent Results:
ADMISSION LABS:
___ 10:45AM   ___ PTT-33.9 ___
___ 10:45AM   PLT COUNT-191
___ 10:45AM   NEUTS-62.6 ___ MONOS-7.5 EOS-0.7* 
BASOS-0.3 IM ___ AbsNeut-3.58 AbsLymp-1.64 AbsMono-0.43 
AbsEos-0.04 AbsBaso-0.02
___ 10:45AM   WBC-5.7 RBC-3.67* HGB-11.5* HCT-33.2* MCV-91 
MCH-31.3 MCHC-34.6 RDW-13.3 RDWSD-44.0
___ 10:45AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 10:45AM   ALBUMIN-4.1 CALCIUM-9.0 PHOSPHATE-3.7 
MAGNESIUM-1.8
___ 10:45AM   ALT(SGPT)-20 AST(SGOT)-32 CK(CPK)-158 ALK 
PHOS-50 TOT BILI-0.4
___ 10:45AM   estGFR-Using this
___ 10:45AM   GLUCOSE-85 UREA N-13 CREAT-0.8 SODIUM-141 
POTASSIUM-4.5 CHLORIDE-101 TOTAL CO2-29 ANION GAP-11
___ 11:00AM   LACTATE-0.8
___ 11:03AM URINE  MUCOUS-OCC*
___ 11:03AM URINE  AMORPH-FEW
___ 11:03AM URINE  RBC-1 WBC-1 BACTERIA-NONE YEAST-NONE 
EPI-0
___ 11:03AM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 11:03AM URINE  COLOR-Yellow APPEAR-Hazy* SP ___
___ 11:03AM URINE  bnzodzpn-NEG barbitrt-NEG opiates-POS* 
cocaine-POS* amphetmn-NEG oxycodn-NEG mthdone-NEG
___ 11:03AM URINE  HOURS-RANDOM
___ 09:14PM   ___ PTT-36.8* ___
___ 09:14PM   PLT COUNT-153
___ 09:14PM   NEUTS-58.8 ___ MONOS-7.1 EOS-1.3 
BASOS-0.7 IM ___ AbsNeut-3.15 AbsLymp-1.71 AbsMono-0.38 
AbsEos-0.07 AbsBaso-0.04
___ 09:14PM   WBC-5.4 RBC-3.66* HGB-11.4* HCT-33.4* MCV-91 
MCH-31.1 MCHC-34.1 RDW-13.4 RDWSD-45.1
___ 09:14PM   calTIBC-229* TRF-176*
___ 09:14PM   ALBUMIN-3.5 CALCIUM-8.2* PHOSPHATE-3.2 
MAGNESIUM-1.9 IRON-60
___ 09:14PM   ALT(SGPT)-18 AST(SGOT)-27 LD(LDH)-180 
CK(CPK)-109 ALK PHOS-42 TOT BILI-0.4

IMAGING:
___ CT HEAD - no acute process

___ cxr -  
AP portable semi upright view of the chest.  Lung volumes are 
low.  Vague 
ground-glass opacities within the perihilar region could reflect 
central 
airways inflammation.  No lobar consolidation, large effusion or 
pneumothorax. 
Heart size is normal.  Mediastinal contours unremarkable.  Bony 
structures are 
intact. 

MICRO:
___ Blood Cx 2x: PND
___ Urine cx: PND

Discharge labs:

___ 07:53AM BLOOD WBC-4.3 RBC-4.40* Hgb-13.4* Hct-38.7* 
MCV-88 MCH-30.5 MCHC-34.6 RDW-13.1 RDWSD-42.6 Plt ___
___ 07:53AM BLOOD Glucose-114* UreaN-14 Creat-0.7 Na-145 
K-4.4 Cl-106 HCO3-27 AnGap-12
___ 07:53AM BLOOD CK(CPK)-67
___ 07:53AM BLOOD Calcium-9.1 Phos-2.4* Mg-2.___ yo M with unclear pmh presenting with altered mental status, 
tachycardia, hyperthermia, and hypopnea likely ___ polysubstance 
ingestion.

ACTIVE ISSUES:

#Acute confusion and depressed consciousness with overdose of 
heroin and cocaine
Suspected due to polysubstance ingestion (cocaine and heroin). 
He was given narcan in the ED with improvement in his 
respiratory status and did not require additional doses in the 
FICU. By HD1 he was significantly improved, without any further 
metabolic derangements to explain AMS. No further fevers and no 
leukocytosis to suggest sepsis, and VS have now stabilized with 
management of toxic ingestion.

#Respiratory depression, tachycardia, hyperthermia: 
#Suspected polysubstance ingestion: 
#Fever
Presented with multiple vital sign derangements: tachycardia, 
hyperthermia, and hypotension. As above, this was likely due to 
polysubstance overdose. Urine was positive for cocaine and 
opiates. Cocaine explains tachycardia and hyperthermia as well 
as borderline prolonged QRS, while heroin ingestion explains 
respiratory depression. Resolved in ED with IVF and narcan. CK 
trended and was not elevated. Blood and urine cultures were sent 
and are still pending as of ___.
Regarding fever:  CXR without frank pneumonia, blood and urine 
cultures pending as of ___ but no growth. He received cefepime 
and gentamycin in the ED and subsequently did not receive 
additional antibiotics. 

CHRONIC ISSUES: 

#Hepatitis C - treated

#Polysubstance abuse
He was counseled re his relapse and planned to resume meetings 
and discuss his relapse with his PCP.  He was restarted on home 
Suboxone.

TRANSITIONAL ISSUES:
PCP follow up for sobriety and social work counseling.
 
Medications on Admission:
Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Buprenorphine-Naloxone (8mg-2mg) 2 TAB SL DAILY 
2. Doxepin HCl 25 mg PO HS 
3. Gabapentin 600 mg PO TID 
4. Loratadine 10 mg PO DAILY 
5. Fluticasone Propionate NASAL 2 SPRY NU DAILY 

 
Discharge Medications:
1.  Buprenorphine-Naloxone (8mg-2mg) 2 TAB SL DAILY  
2.  Doxepin HCl 25 mg PO HS  
3.  Fluticasone Propionate NASAL 2 SPRY NU DAILY  
4.  Gabapentin 600 mg PO TID  
5.  Loratadine 10 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Polysubstance abuse
Acute encephalopathy

 
Discharge Condition:
tolerating diet, ambulating, stable vital signs.
 
Discharge Instructions:
It was a pleasure caring for you at the ___.

Why did you come to the hospital?
You were found outside unresponsive.
What did we do for you while you were hospitalized?
You were supported with iv fluids, and received medications to 
reverse the medications that you took.
Your mind got clearer.

What should you do once you leave the hospital?
Continue your suboxone and remain sober.
Go to an NA meeting today - and ___ your PCP
___ the doctor if you get a fever or feel worse.

Pay attention to the warning signs below, and ___ your doctor 
if any of them develop.

Attend all the follow up appointments scheduled below.

 
Followup Instructions:
___